US05880126
404.5 mg of 5-benzyloxy-4-methoxymethyl-9H-pyrido[3,4-b]indole-3-carboxylic acid-(1-methylethyl)-ester (1 mmol) is dissolved in 15 ml of dimethylformamide and mixed with 217 mg (1.1 mmol) of cinnamyl bromide and 358 mg (1.1 mmol) of cesium carbonate. It is stirred for 48 hours at room temperature, the reaction mixture is worked up, as described in Example 26, and after chromatography, 210 mg of 5-benzyloxy-4-methoxymethyl-9-cinnamoyl-9H-pyrido[3,4-b]indole-3-carboxylic acid-(1-methylethyl)-ester is obtained.

reactant | 5-benzyloxy-4-methoxymethyl-9H-pyrido[3,4-b]indole-3-carboxylic acid-(1-methylethyl)-ester | 1 mmol, 404.5 mg | CC(C)OC(=O)C1=C(C2=C(NC3=CC=CC(=C23)OCC2=CC=CC=C2)C=N1)COC | C24H24N2O4
reactant | cinnamyl bromide | 1.1 mmol, 217 mg | C(C=CC1=CC=CC=C1)Br | C9H9Br
reactant | cesium carbonate | 1.1 mmol, 358 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 5-benzyloxy-4-methoxymethyl-9-cinnamoyl-9H-pyrido[3,4-b]indole-3-carboxylic acid-(1-methylethyl)-ester | 210 mg | CC(C)OC(=O)C1=C(C2=C(N(C3=CC=CC(=C23)OCC2=CC=CC=C2)C(C=CC2=CC=CC=C2)=O)C=N1)COC | C33H30N2O5
